US04145549
6.1 g of crude N-(N-carbobenzoxy-DL-α-hydroxyalanyl)-L-phenylalanyl-L-proline p-nitrophenyl ester obtained in step hi), hii) or hiii) below, in 300 ml acetone, is treated with a 10% (w/v) potassium tartrate solution (having pH = 7.9). The reaction mixture is stirred for 18 hours at room temperature, and worked up by the addition of 10% (w/v) tartaric acid solution until the reaction mixture is at a pH of 5 and extraction with methylene chloride. The product obtained on concentration is crystallized from ethyl acetate or an ethyl acetate/diisopropyl ether mixture (3:1; v/v) yielding, after drying at 90° in a high vacuum, the aci-form of the title compound (M.Pt. 206°-208°; decomposition); [α]D20 = -28° (c = 0.5 in CH3OH).

reactant | potassium tartrate | pH = 7.9 | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[K+]
reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | ethyl acetate diisopropyl ether | C(C)(=O)OCC.C(C)(C)OC(C)C | InChI=1S/C6H14O.C4H8O2/c1-5(2)7-6(3)4;1-3-6-4(2)5/h5-6H,1-4H3;3H2,1-2H3
